US05935976
89a) 5(S)-[1(S)-(Boc-Amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-[(4-biphenylyl)-methyl]dihydrofuran-2-(3H)-one
In analogy with Example 5d), 5.55 g (13.5 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)ethyl]dihydrofuran-2-(3H)-one [preparation, see Example 1g)], dissolved in 20 ml of THF and 2.3 ml of DMPU, are deprotonated, at -70° C., with 27 ml of a 1 M solution of lithium bis(trimethylsilyl)amide in THF, and alkylated (1 h) with 5.0 g (20.2 mmol) of 4-biphenylylmethyl bromide (Salor, Milwaukee, USA) in 16 ml of THF. Protonating with 5 ml (67.4 mmol) of propionic acid and 5 ml of water, at -75° C., extracting and medium pressure chromatography (gradient: 30-50% ethyl acetate in toluene) results in the title compound: TLC Rf (Q)=0.15; tRet (II)=20.0 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)ethyl]dihydrofuran-2-(3H)-one | 13.5 mmol, 5.55 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C24H29NO5
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-biphenylylmethyl bromide | 20.2 mmol, 5.0 g | C1(=CC=C(C=C1)CBr)C1=CC=CC=C1 | C13H11Br
reactant | propionic acid | 67.4 mmol, 5 ml | C(CC)(=O)O | C3H6O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMPU | 2.3 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5(S)-[1(S)-(Boc-Amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-[(4-biphenylyl)-methyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C37H39NO5
